************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Vinput input 0 PWL 0n 1.2 9240n 1.2 9241n 0.3 18240n 0.3 18241n 1.4 37240n 
+1.4 37241n 0.44 57240n 0.44 57241n 1.45 77240n 1.45 77241n 1.1 
Ven_n en_n 0 PWL 0n 0 
Vvcc vcc 0 PWL 0n VCC 
Vextthresh extthresh 0 PWL 0n 0.8 
Vuseext useext 0 PWL 0n 0 
Vcal cal 0 PWL 0n 0 40n 0 41n VCC 240n VCC 241n 0 

